US05043466
N,N-Dimethyl-α-(1-hydroxycyclohexyl)-p-methoxyphenylthioacetamide
N,N-Dimethyl-p-methoxyphenylthioacetamide (20.9 g) in toluene was added to a solution of 1.45M isopropyl magnesium bromide in methyl t-butyl ether (80 ml) and toluene (400 ml) under an inert atmosphere of nitrogen whilst the internal temperature was maintained below 10° C. After 2 hours a solution of cyclohexanone (9.82 g) in toluene (50 ml) was added to the reaction mixture under nitrogen. After a further 15 minutes the mixture was blown over onto 1N hydrochloric acid (150 ml). The organic phase was washed, dried and evaporated. Recrystallisation of the residue from di-isopropyl ether gave the title compound (19.3 g, 64% yield), melting point 132° to 3° C.

reactant | N,N-Dimethyl-p-methoxyphenylthioacetamide | 20.9 g | CN(C(CC1=CC=C(C=C1)OC)=S)C | C11H15NOS
reactant | isopropyl magnesium bromide | 1.45M | C(C)(C)[Mg]Br
reactant | cyclohexanone | 9.82 g | C1(CCCCC1)=O | C6H10O
reactant | hydrochloric acid | 1N, 150 ml | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | methyl t-butyl ether | 80 ml | C(C)(C)(C)OC | C5H12O
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | N,N-Dimethyl-α-(1-hydroxycyclohexyl)-p-methoxyphenylthioacetamide | 19.3 g, 64% yield | CN(C(C(C1(CCCCC1)O)C1=CC=C(C=C1)OC)=S)C | C17H25NO2S
